US08236976B2
Preparation of (3-tert-Butyl-oxiranyl)-(4-trifluoromethyl-phenyl)-methanol (19)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 35 μL (0.28 mmol) 3,3-dimethyl-1-butyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 34 μL (0.25 mmol) p-trifluoromethylbenzaldehyde, 50 μL (0.05 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 10.6 μL (0.05 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 85% yield (58 mg, 0.21 mmol). threo-diastereomer: Colorless solid. m.p.: 76-79° C.; [α]D20=−10.0 (c=0.27, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.90 (s, 10H), 2.89 (d, 1H, J=2.2 Hz), 3.03 (dd, 1H, J=5.5, 2.2 Hz), 4.58 (d, 1H, J=5.4 Hz), 7.53 (d, 2H, J=8.1 Hz), and 7.64 (d, 2H, J=8.1 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.7, 30.6, 59.0, 65.3, 73.6, 125.54, 125.58, 125.59, and 126.3 ppm; IR (film): 3411, 3028, 2969, 2927, 2871, 2367, 2332, 1622, 1477, 1460, 1420, 1365, 1331, and 1241 cm−1; HRMS-CI m/z 255.1192 [(M−F)+; calcd for C14H17F2O2: 255.1197]. erythro-diastereomer: Colorless solid. m.p.: 74-75° C.; [α]D20=−32.0 (c=0.10, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.83 (s, 9H), 2.30 (br s, 1H), 2.93 (d, 1H, J=2.0 Hz), 3.03 (t, 1H, J=2.6 Hz), 4.90 (d, 1H, J=2.2 Hz), 7.48 (d, 2H, J=8.0 Hz), and 7.60 (d, 2H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.7, 31.6, 57.9, 62.8, 75.6, 125.50, 125.51, 125.53, and 126.6 ppm; IR (film): 3350, 3037, 2955, 2868, 1661, 1620, 1477, 1463, 1414, 1365, and 1327 cm−1; HRMS-CI m/z 255.1192 [(M−F)+; calcd for C14H17F2O2: 255.1197].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.28 mmol, 35 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | p-trifluoromethylbenzaldehyde | 0.25 mmol, 34 μL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | (+)-DIPT | 0.05 mmol, 10.6 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.05 mmol, 1.0 M, 50 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-tert-Butyl-oxiranyl)-(4-trifluoromethyl-phenyl)-methanol | 85% yield | C(C)(C)(C)C1C(O1)C(O)C1=CC=C(C=C1)C(F)(F)F | C14H17F3O2
